US08383654B2
Step 3: 4-Cyanomethyl-pyrazole-1-carboxylic acid tert-butyl ester
To 4-bromomethyl-pyrazole-1-carboxylic acid tert-butyl ester (1.0 g, 3.5 mmol) in DMSO (25 mL) was added potassium cyanide (0.228 g, 3.5 mmol), and the reaction was stirred for 15 minutes at room temperature. The mixture was poured into H2O and extracted with EtOAc. The combined organic layers were dried and concentrated to give the title compound, along with some starting material and the unbrominated starting material from the previous step. The material was dissolved in DMSO (10 mL), and potassium cyanide (0.100 g, 1.5 mmol) was added. The reaction was stirred for 1 hour at room temperature, and then worked-up, dried, and concentrated to give the title compound, contaminated with a small amount of 4-methyl-pyrazole-1-carboxylic acid tert-butyl ester.

reactant | 4-bromomethyl-pyrazole-1-carboxylic acid tert-butyl ester | 3.5 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1N=CC(=C1)CBr | C9H13BrN2O2
reactant | potassium cyanide | 3.5 mmol, 0.228 g | [C-]#N.[K+]
reactant | H2O | O | H2O
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | 4-Cyanomethyl-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=CC(=C1)CC#N | C10H13N3O2
